US07601714B2
{4-[(2-Chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester (100 mg, 0.26 mmol) was dissolved in DMF (3 mL). 2-Methanesulfonyl-benzylamine hydrochloride (115 mg, 0.52 mmol) and diisopropylethylamine (0.14 mL, 0.78 mmol) were added sequentially. After 24 h, the reaction was partitioned between water (10 mL) and DCM (10 mL). The organic layer was washed with 5% AcOH (aq), saturated Na2CO3 and water, dried over MgSO4, filtered and concentrated. Chromatography (silica, 0-15% MeOH in DCM; Rf=0.3 10% MeOH in DCM) yielded 96 mg of (4-{[2-(2-methanesulfonyl-benzylamino)-5-nitro-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester as a pale yellow solid, m/z 535.7 [M+1]+.

reactant | {4-[(2-Chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 0.26 mmol, 100 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C16H24ClN5O4
reactant | 2-Methanesulfonyl-benzylamine hydrochloride | 0.52 mmol, 115 mg | Cl.CS(=O)(=O)C1=C(CN)C=CC=C1
reactant | diisopropylethylamine | 0.78 mmol, 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (4-{[2-(2-methanesulfonyl-benzylamino)-5-nitro-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 96 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)S(=O)(=O)C)=O | C24H34N6O6S
